US08022075B2
1-[4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)phenyl]-1-ethanol (8)
4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)benzaldehyde (820 mg) was dissolved in tetrahydrofuran (25 mL), and the solution was stirred under ice cooling. Methyl magnesium bromide (787 mL) was added dropwise to the reaction mixture, followed by stirring for 15 minutes under ice cooling and then for 5 hours at room temperature. Aqueous saturated ammonium chloride solution (25 mL) was added dropwise to the reaction mixture, and the mixture was stirred at room temperature for 1 hour. Water was added to the reaction mixture, followed by extraction with dichloromethane-methanol. Subsequently, the solvent was evaporated, and the residue was purified through silica gel column chromatography (dichloromethane:methanol=97:3), followed by concentration under reduced pressure, to thereby yield the title compound (579 mg).

reactant | 4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)benzaldehyde | 820 mg | IC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=O)C=C2 | C14H9IN2O
reactant | Methyl magnesium bromide | 787 mL | C[Mg]Br
reactant | ammonium chloride | 25 mL | [Cl-].[NH4+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 1-[4-(6-Iodoimidazo[1,2-a]pyridin-2-yl)phenyl]-1-ethanol | 579 mg | IC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)C(C)O | C15H13IN2O
